US05532240
To a mixture of 13 g of 2,3-dihydrothieno[3,2-f][1,4]thiazepin-5(4H)-one and 21.5 g of 4-chlorobutyryl chloride in 200 ml of dichloroethane was added 21.5 g of aluminum chloride under cooling and the mixture was stirred for 3 hours. The mixture was poured into ice-cold water and extracted with chloroform. The organic layer was washed with saline solution, dried over magnesium sulfate and concentrated. The residue was recrystallized from ethanol to give 12 g of 7-(4-chlorobutyryl)-2,3-dihydrothieno[3,2-f][1,4]thiazepin-5(4H)-one as white crystals, m.p. 124°-125° C.

reactant | 2,3-dihydrothieno[3,2-f][1,4]thiazepin-5(4H)-one | 13 g | S1CCNC(C2=C1SC=C2)=O | C7H7NOS2
reactant | 4-chlorobutyryl chloride | 21.5 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminum chloride | 21.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
product | 7-(4-chlorobutyryl)-2,3-dihydrothieno[3,2-f][1,4]thiazepin-5(4H)-one | 12 g | ClCCCC(=O)C1=CC=2C(NCCSC2S1)=O | C11H12ClNO2S2
